US07807686B2
To a solution of 4-methoxy-N-(3-piperidin-1-ylpropyl)benzamide (1.9 g, 6.9 mmol) in THF (15 mL) was added borane*THF (1M in THF, 10 mL, 10 mmol) and the reaction mixture heated at reflux temperature for 18 h. The solution was cooled to room temperature and quenched with 4N HCl/dioxane (2 mL). The product mixture was washed with diethyl ether (2×50 mL) and basified with 40% (w/w) KOH (aq.). The aqueous layer was extracted with dichloromethane (3×50 mL) and the organic phase dried (Na2SO4) and concentrated in vacuo. The resultant oil was purified by chromatography on silica gel with methanol:dichloromethane (1:9, v/v) as eluent to afford N-(4-methoxybenzyl)-3-piperidin-1-ylpropan-1-amine (INTERMEDIATE IX.1) (400 mg, 1.5 mmol, 22%).

reactant | 4-methoxy-N-(3-piperidin-1-ylpropyl)benzamide | 6.9 mmol, 1.9 g | COC1=CC=C(C(=O)NCCCN2CCCCC2)C=C1 | C16H24N2O2
reactant | borane | 10 mmol, 1M, 10 mL | B | BH3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-(4-methoxybenzyl)-3-piperidin-1-ylpropan-1-amine | 1.5 mmol, 400 mg, 22% | COC1=CC=C(CNCCCN2CCCCC2)C=C1 | C16H26N2O
